US09062028B2
Step B. 1-(5-(2-(3-Aminobenzyl)-2H-tetrazol-5-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one
The title compound was prepared using a procedure analogous to 1-(5-(3-(aminomethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one except that tert-butyl 3-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzylcarbamate was replaced with tert-butyl 3-((5-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-2H-tetrazol-2-yl)methyl)phenylcarbamate. LCMS, [M+H]+=497.3.

reactant | 1-(5-(3-(aminomethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | NCC=1C=C(C=CC1)C1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O | C28H32N2O2
reactant | tert-butyl 3-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzylcarbamate | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=C(CNC(OC(C)(C)C)=O)C=CC2)C=CC=C1C | C33H40N2O4
reactant | tert-butyl 3-((5-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-2H-tetrazol-2-yl)methyl)phenylcarbamate | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2N=NN(N2)CC=2C=C(C=CC2)NC(OC(C)(C)C)=O)C=CC=C1C | C34H40N6O4
product | 1-(5-(2-(3-Aminobenzyl)-2H-tetrazol-5-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | NC=1C=C(CN2N=C(N=N2)C2=C3CCCN(C3=CC=C2)C(CCCOC2=C(C(=CC=C2)C)C)=O)C=CC1 | C29H32N6O2
